US07410986B2
A mixture of 2-amino-4-{4-amino-3-[2-(1-piperidinyl)ethoxy]phenyl}-6-{2-[(4-methoxybenzyl)oxy]-phenyl}nicotinonitrile, acetyl chloride, pyridine and CH2Cl2 was stirred at 0° C. for 1 hr. and at room temperature for 2 hrs. The usual work-up and column chromatography gave N-{4-(2-amino-3-cyano-6-{2-[(4-methoxybenzyl)oxy]phenyl}-4-pyridinyl)-2-[2-(1-piperidinyl)ethoxy]-phenyl}acetamide.

reactant | 2-amino-4-{4-amino-3-[2-(1-piperidinyl)ethoxy]phenyl}-6-{2-[(4-methoxybenzyl)oxy]-phenyl}nicotinonitrile | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)N)OCCN1CCCCC1 | C33H35N5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{4-(2-amino-3-cyano-6-{2-[(4-methoxybenzyl)oxy]phenyl}-4-pyridinyl)-2-[2-(1-piperidinyl)ethoxy]-phenyl}acetamide | NC1=NC(=CC(=C1C#N)C1=CC(=C(C=C1)NC(C)=O)OCCN1CCCCC1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC | C35H37N5O4
